US07618964B2
6-Morpholin-4-yl-nicotinic acid
3.00 g 6-chloronicotinic acid in 24 ml dry acetonitrile were mixed with 16.6 ml morpholine and heated to reflux for 48 hrs. The mixture was evaporated under vacuum and the residue dissolved in water. The crude product was precipitated by addition of 10% aqueous acetic acid, isolated by filtration and washed with water and methanol to give 1.83 g of the title compound.

reactant | 6-chloronicotinic acid | 3.00 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | morpholine | 16.6 ml | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 24 ml | C(C)#N | C2H3N
product | 6-Morpholin-4-yl-nicotinic acid | 1.83 g | N1(CCOCC1)C1=NC=C(C(=O)O)C=C1 | C10H12N2O3
